US08114868B2
To a solution of 1-(2-fluorophenyl)-prop-2-en-1-one (5.6 g, 37.3 mmol) in CH3CN (50 mL) was added (S)-1-(4-bromophenyl)-ethylamine (7.4 g, 37 mmol), and the mixture was stirred for 12 h at 40° C. The solution was concentrated to afford the crude product, which was purified by column chromatography to give (S)-3-(1-(4-bromophenyl)-ethylamino)-1-(2-fluorophenyl)-propan-1-one (4 g, yield: 30.7%) as a yellow liquid.

reactant | 1-(2-fluorophenyl)-prop-2-en-1-one | 37.3 mmol, 5.6 g | FC1=C(C=CC=C1)C(C=C)=O | C9H7FO
reactant | (S)-1-(4-bromophenyl)-ethylamine | 37 mmol, 7.4 g | BrC1=CC=C(C=C1)[C@H](C)N | C8H10BrN
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | (S)-3-(1-(4-bromophenyl)-ethylamino)-1-(2-fluorophenyl)-propan-1-one | 4 g, yield: 30.7% | BrC1=CC=C(C=C1)[C@H](C)NCCC(=O)C1=C(C=CC=C1)F | C17H17BrFNO
